US06121258
1-[(4Methoxyphenyl)sulfonyl]-5-(1-methyl-1H-imidazole-4-sulfonyl)-diazepine-2-carboxylic acid (7c):
The 1-[(4-methoxyphenyl)sulfonyl]-diazepine-2-carboxylic acid (0.150 g, 0.48 mmol) is dissolved in water (10 mL) and p-dioxane (10 mL). The triethyl amine (0.27 mL, 1.9 mmol) and 1-methyl-1H-imidazole-4-sulfonyl chloride (0.104 g, 0.58 mmol) are next added. The reaction mixture is stirred overnight at room temperature and then the solution is acidified with 1N HCl to pH~1, poured into water, and extracted with methylene chloride. The organic extracts are dried (Na2SO4) and concentrated down to an oil. The oil is purified by HPLC with a reverse phase column using 70% (95% water, 5% acetonitrile, 0.1% formic acid) and 30% (80% acetonitrile, 20% water) as the eluent.

reactant | 1-[(4-methoxyphenyl)sulfonyl]-diazepine-2-carboxylic acid | 0.48 mmol, 0.150 g | COC1=CC=C(C=C1)S(=O)(=O)N1N(CC=CC=C1)C(=O)O | C13H14N2O5S
reactant | triethyl amine | 1.9 mmol, 0.27 mL | C(C)N(CC)CC | C6H15N
reactant | 1-methyl-1H-imidazole-4-sulfonyl chloride | 0.58 mmol, 0.104 g | CN1C=NC(=C1)S(=O)(=O)Cl | C4H5ClN2O2S
reactant | HCl | 1N | Cl | ClH
solvent | water | 10 mL | O | H2O
solvent | p-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 1-[(4Methoxyphenyl)sulfonyl]-5-(1-methyl-1H-imidazole-4-sulfonyl)-diazepine-2-carboxylic acid | COC1=CC=C(C=C1)S(=O)(=O)N1N(CC=C(C=C1)S(=O)(=O)C=1N=CN(C1)C)C(=O)O | C17H18N4O7S2
